US06635657B1
D. Ethyl 1-Isopropylpiperidine-4-carboxylate
An autoclave was charged with ethyl isonipecotate (50 g, 318.0 mmol), 10% Pd/C (5 g, 10 wt %), acetone (450 mL, 6.13 mol) and ethanol (100 mL). The autoclave was pressurized to 4.1 bar with H2, and the slurry was heated to 35° C. After 14 h the mixture was filtered, rinsed with acetone, and was concentrated to remove excess acetone. The crude material was taken on without any purification:

reactant | ethyl isonipecotate | 318.0 mmol, 50 g | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | acetone | 6.13 mol, 450 mL | CC(=O)C | C3H6O
catalyst | Pd/C | 5 g | [Pd] | Pd
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | Ethyl 1-Isopropylpiperidine-4-carboxylate | C(C)(C)N1CCC(CC1)C(=O)OCC | C11H21NO2
